US09056865B2
To a solution of 3,5-dimethylpyridine 1-oxide (92 g, 0.75 mol) in THF (1300 mL) was added dropwise i-PrMgCl (600 mL, 1.2 mol) at −72° C. After stirring for 2 hr at the same temperature, a solution of iodine (350 g, 1.38 mol) in THF (500 mL) was added dropwise. After stirring for 1 hr, TLC (petroleum ether:EtOAc=1:4) showed the starting material was consumed almost. After quenching with Na2S2O3(aq.) (400 mL), THF was removed in vacuo and the residue was diluted with EtOAc (1500 mL). The solution was washed with water (400 mL) and brine (400 mL) and dried over Na2SO4. The resulting material was concentrated in vacuo to give crude material which was purified by chromatography on silica gel with petroleum ether:EtOAc=1:4 to afford 2-iodo-3,5-dimethylpyridine 1-oxide (68 g, 36.3%) as white solid.

reactant | 3,5-dimethylpyridine 1-oxide | 0.75 mol, 92 g | CC=1C=[N+](C=C(C1)C)[O-] | C7H9NO
reactant | i-PrMgCl | 1.2 mol, 600 mL | C(C)(C)[Mg]Cl
reactant | iodine | 1.38 mol, 350 g | II | I2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1300 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2-iodo-3,5-dimethylpyridine 1-oxide | 68 g, 36.3% | IC1=[N+](C=C(C=C1C)C)[O-] | C7H8INO
